US07030145B2
2-chloro-3-(4-methoxybenzenesulfonyl)-6-methylpyridine (1.6 g, 5.39 mmol) and 2,4,6-trimethylaniline (4.4 g, 32.8 mmol) were heated at reflux in ethylene glycol (5.5 mL) for 20 h. After cooling, the reaction was partitioned between EtOAc (100 mL) and 0.5 N NaOH (20 mL) and the aqueous layer was extracted with EtOAc (100 mL) and the combined organic extracts were washed with water, brine, dried and stripped in vacuo. The residue was chromatographed on silica gel using 20% EtOAc/hexanes as eluent to give [3-(4-methoxybenzenesulfonyl)-6-methyl-pyridin-2-yl]-(2,4,6-trimethylphenyl)-amine as a solid (1.4 g), mp 165–167° C. mass spec. (AP+): m/z 397 (M+1).

reactant | 2-chloro-3-(4-methoxybenzenesulfonyl)-6-methylpyridine | 5.39 mmol, 1.6 g | ClC1=NC(=CC=C1S(=O)(=O)C1=CC=C(C=C1)OC)C | C13H12ClNO3S
reactant | 2,4,6-trimethylaniline | 32.8 mmol, 4.4 g | CC1=C(N)C(=CC(=C1)C)C | C9H13N
solvent | ethylene glycol | 5.5 mL | C(CO)O | C2H6O2
product | [3-(4-methoxybenzenesulfonyl)-6-methyl-pyridin-2-yl]-(2,4,6-trimethylphenyl)-amine | 1.4 g | COC1=CC=C(C=C1)S(=O)(=O)C=1C(=NC(=CC1)C)NC1=C(C=C(C=C1C)C)C | C22H24N2O3S
